US07153848B2
Methyl 6-cyano-13-cyclohexyl-7H-indolo[2,1-a][2]benzazepine-10-carboxylate
Tetrakis(triphenylphosphine)palladium(0) (207 mg, 0.18 mmol) was added to a stirred and degassed mixture of methyl 2-bromo-1-(2-cyanoethyl)-3-cyclohexyl-1H-indole-6-carboxylate (695 mg, 1.8 mmol), 2-formylphenyl boronic acid (233 mg, 1.56 mmol), LiCl (151 mg, 3.57 mmol) in ethanol (5.8 mL) and toluene (5.8 mL) containing 1M aqueous sodium carbonate (5 mL, 5 mmol). The mixture was stirred under reflux for 2 hr. The mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water (2×), followed by brine, and dried over sodium sulfate. The extract was concentrated and partially purified by chromatography on SiO2 (35 g) using the flash technique and eluting with methylene chloride with between 10–20% ethyl acetate. A solution of the residue when stood in methanol deposited yellow needles of the titled compound. MS m/z 397 (MH+); (500 MHz, CHLOROFORM-D) δ ppm 1.31–2.16 (m, 10 H) 2.73–2.89 (m, 1 H) 3.97 (s, 3 H) 4.46 (s, 1 H) 5.00–5.17 (m, 1 H) 7.41–7.47 (m, 1 H) 7.49–7.53 (m, 1 H) 7.55 (s, 1 H) 7.57–7.61 (m, 1 H) 7.79 (d, J=8.55 Hz, 1 H) 7.91 (d, J=8.55 Hz, 1 H) 8.18 (s, 1 H).

reactant | methyl 2-bromo-1-(2-cyanoethyl)-3-cyclohexyl-1H-indole-6-carboxylate | 1.8 mmol, 695 mg | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC#N | C19H21BrN2O2
reactant | 2-formylphenyl boronic acid | 1.56 mmol, 233 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | LiCl | 3.57 mmol, 151 mg | [Li+].[Cl-]
reactant | sodium carbonate | 5 mmol, 1M, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 5.8 mL | C(C)O | C2H6O
solvent | toluene | 5.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.18 mmol, 207 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 6-cyano-13-cyclohexyl-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | C(#N)C=1CN2C(C3=C(C1)C=CC=C3)=C(C=3C=CC(=CC32)C(=O)OC)C3CCCCC3 | C26H24N2O2
